Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old man with cervical myelopathy, 
hypertension who presents with 1 week of abdominal pain.

Patient was in usual state of health until 1 week ago when 
abdominal pain started gradually, then worsening over the past 
few days. Reports nausea but no vomiting, with very poor PO due 
to worsening of the pain. No fever, chills. He reports he 
usually has BMs every other day but has not had a BM in 1 week. 
He takes oxycodone (5mg TID) for cervical myelopathy 
chronically. No history of abdominal surgeries. 

In the ED, initial VS were: 96.2 95 119/80 16 100% RA  
ED physical exam was recorded as: abdomen with good BS, soft, 
diffusely tender with pain always going back towards suprapubic 
area
ED labs were notable for: lactate 2.1, otherwise all labs ___
Imaging showed mildly dilated duodenum with multiple nearby 
prominent upper abdominal and retroperitoneal lymph nodes. 
Findings are nonspecific but raise the possibility of enteritis 
including duodenitis, otherwise, no additional acute 
intra-abdominal intrapelvic process.

 Patient was given:
___ 12:05 IV Morphine Sulfate 4 mg  
___ 12:05 IVF 1000 mL NS  
___ 17:54 IV Morphine Sulfate 4 mg 
___ 17:54 IVF 1000 mL NS

Transfer VS were: 99.0 86 132/87 18 100% RA 
 When seen on the floor, he reports abdominal pain. He wants to 
eat.
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
1) Cervical myelopathy since ___: bilateral upper extremity 
weakness and neck pain 
2) HTN
3) Anxiety
4) Chronic onychodystrophy
 
Social History:
___
Family History:
No family history of bowel disease
 
Physical Exam:
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, mildly distended, tender diffusely with mild 
palpation, mostly in the lower abdomen, hypoactive bowel sounds, 
no rebound tenderness or guarding
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect 
 
Pertinent Results:
___ 01:30PM URINE  HOURS-RANDOM
___ 01:30PM URINE  UHOLD-HOLD
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:40AM   LACTATE-2.1*
___ 11:00AM   GLUCOSE-93 UREA N-10 CREAT-1.0 SODIUM-137 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-24 ANION GAP-19
___ 11:00AM   estGFR-Using this
___ 11:00AM   ALT(SGPT)-24 AST(SGOT)-21 ALK PHOS-70 TOT 
BILI-0.6
___ 11:00AM   WBC-8.3 RBC-5.21 HGB-14.8 HCT-45.0 MCV-86 
MCH-28.4 MCHC-32.9 RDW-15.4 RDWSD-48.7*
___ 11:00AM   NEUTS-39.1 ___ MONOS-10.7 EOS-2.3 
BASOS-0.7 IM ___ AbsNeut-3.23 AbsLymp-3.89* AbsMono-0.89* 
AbsEos-0.19 AbsBaso-0.06
___ 11:00AM   PLT COUNT-313
___ 11:00AM   PLT COUNT-313

CT abd/pelvis:
1. Mildly dilated duodenum with multiple nearby prominent upper 
abdominal and retroperitoneal lymph nodes. Findings are 
nonspecific but raise the 
possibility of enteritis including duodenitis. 
2. Otherwise, no additional acute intra-abdominal intrapelvic 
process. 

 
Brief Hospital Course:
Patient is a ___ year old man with cervical myelopathy, 
hypertension who presents with 1 week of abdominal pain, with 
unremarkable labs and non specific imaging findings suggestive 
of duodenitis, presentation likely related to constipation.

# Abdominal pain due to constipation
# Duodenitis on CT
Patient had no peritoneal signs on exam. His lab values were 
unremarkable. His imaging was compatible with non specific 
findings of duodentitis, which is of unclear significance. Most 
likely his pain is due to constipation, and in the absence of 
any concerning exam findings and given that he is relatively 
well-appearing and non toxic, did not pursue further work up.  
His bowel regimen was increased and he had 2 good BMs with 
resolution of his pain.  He was discharged with an increased 
bowel regimen.  The case was reviewed with GI as well and they 
recommend reimaging of his "duodenitis" vs consideration of EGD.

# Cervical myelopathy: bilateral upper extremity weakness and 
neck pain since ___. He reports he is on home oxycodone 5mg 
TID. No records on PMP. Confirmed with med rec from facility. 
Suspect this is exacerbating his constipation
- Oxycodone 5mg TID
- Aggressive bowel regimen as above

# HTN: Patient is unsure what medications he takes. He reports 
he is usually given his meds at the ___
- Continued home metoprolol

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Senna 17.2 mg PO QHS 
2. Mirtazapine 30 mg PO QHS 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. OxyCODONE (Immediate Release) 5 mg PO TID 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Lactulose 15 mL PO TID 
take if you don't have bowel movement in over 3 days 
RX *lactulose 10 gram/15 mL (15 mL) 15 mL by mouth three times a 
day Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*30 Packet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Mirtazapine 30 mg PO QHS  
6.  Multivitamins 1 TAB PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO TID  
8.  Senna 17.2 mg PO QHS  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Constipation
Chronic pain
Enteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with several days of abdominal pain and found 
to have constipation.  Your pain improved with bowel movements 
and increase in your stool softeners.  Please follow up with 
your PCP regarding this.

We also saw inflammation in your intestine "duodenum."  We 
recommend either repeat CT scan in ___ months, or follow up with 
a GI doctor
 
Followup Instructions:
___